US06204293B1
(S)-1-(tert-Butoxy)-3-cyclohexyl-propan-2-ol was prepared according to the procedure described by Alan Armstrong et al., Tetrahedron Letters 1988, 29: 2483-2486. Three drops of boron trifuoride etherate were added to a solution of (S)-3-cylcolhexyl 1,2-propanediol (540 mg, 3.4 mmol) and tert-butyl 2,2,2-trichloroacetamide (670 μL, 3.8 mmol) in cyclohexane (7 mL) at ambient temperature. After stirring for 21 hours, a saturated solution of NaHCO3 was added to the reaction mixture and the mixture was extracted with EtOAc (2×). The EtOAc phases were combined, dried (MgSO4) and concentrated. The residue was chromatographed (silica gel; EtOAc/hexanes, 1:10) to afford a clear oil (235 mg, 32%). 1H NMR (CDCl3, 300 MHz) δ0.79-1.01 (m, 2H), 1.12-1.53 (m, 6H), 1.20 (s, 9H) 1.58-1.84 (m, 5H), 3.12 (dd, J=9, 9 Hz, 1H), 3.35 (dd, J=3, 9 Hz, 1H), 3.81 (m, 1H); MS (CI/NH3) m/z: (M+H)+ 215.

reactant | 1,2-propanediol | 3.4 mmol, 540 mg | C(C(C)O)O | C3H8O2
reactant | tert-butyl 2,2,2-trichloroacetamide | 3.8 mmol, 670 μL | C(C)(C)(C)NC(C(Cl)(Cl)Cl)=O | C6H10Cl3NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | cyclohexane | 7 mL | C1CCCCC1 | C6H12
catalyst | boron | Three drops | [B] | B
product | (S)-1-(tert-Butoxy)-3-cyclohexyl-propan-2-ol | C(C)(C)(C)OC[C@H](CC1CCCCC1)O | C13H26O2
